US08486952B2
A mixture of 2,4-dichloro-8-phenyl-5,6,7,8-tetrahydroquinazoline (51.9 mg, 0.186 mmol), ammonium chloride (13.0 mg, 0.243 mmol) and zinc (130 mg, 1.988 mmol) in acetone (0.75 mL) and water (0.75 mL) was heated at 90° C. with stirring for 2 h. The reaction mixture was filtered through a short plug of diatomaceous earth (Celite®). The solvent was removed in vacuum, and the residue was partitioned between dichloromethane and water. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic extracts were dried over anhydrous magnesium sulfate and filtered. The solvent was removed in vacuum and the residue was purified by column chromatography on silica gel to give 2-chloro-8-phenyl-5,6,7,8-tetrahydroquinazoline (24.1 mg, 0.097 mmol, 52.4% yield) as white solid. LC-MS (M+H)+=245.1. 1H NMR (500 MHz, CDCl3) δ ppm 8.39 (1H, s), 7.27 (2H, t, J=7.6 Hz), 7.16-7.23 (1H, m), 6.95 (2H, d, J=7.3 Hz), 4.21 (1H, t, J=6.0 Hz), 2.72-2.91 (2H, m), 2.14-2.26 (1H, m), 1.95-2.06 (1H, m), 1.81-1.93 (1H, m), 1.71-1.81 (1H, m).

reactant | 2,4-dichloro-8-phenyl-5,6,7,8-tetrahydroquinazoline | 0.186 mmol, 51.9 mg | ClC1=NC=2C(CCCC2C(=N1)Cl)C1=CC=CC=C1 | C14H12Cl2N2
reactant | ammonium chloride | 0.243 mmol, 13.0 mg | [Cl-].[NH4+]
solvent | acetone | 0.75 mL | CC(=O)C | C3H6O
solvent | water | 0.75 mL | O | H2O
catalyst | zinc | 1.988 mmol, 130 mg | [Zn] | Zn
product | 2-chloro-8-phenyl-5,6,7,8-tetrahydroquinazoline | 0.097 mmol, 24.1 mg, 52.4% yield | ClC1=NC=2C(CCCC2C=N1)C1=CC=CC=C1 | C14H13ClN2
